US06194446B1
Preparation of 2-Phenyl-4-(4-Bromomethylphenoxy)ethyloxazole
To a suspension of 2-phenyl-4-(4-hydroxymethylphenoxy)ethyloxazole (30 g, 102 mmol) in 300 mL of methylene chloride at 5° C under a nitrogen atmosphere was added phosphorous tribromide (10.02 mL, 107 mmol) dropwise keeping the temperature of the reaction below 20° C. The resulting solution was allowed to stir for about 2 hours at room temperature. The reaction was cooled to about 10° C and 20 mL of methanol was added. After about 5 minutes, the solvent was removed and the solid remaining was partitioned between 1.35 L of ethyl acetate and 1.05 L of cold 5% aqueous sodium bicarbonate. The organics were washed with another 1.05 L of 5% aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and removed to give 33.3 g of the title compound.

reactant | 2-phenyl-4-(4-hydroxymethylphenoxy)ethyloxazole | 102 mmol, 30 g | C1(=CC=CC=C1)C=1OC=C(N1)CCOC1=CC=C(C=C1)CO | C18H17NO3
reactant | phosphorous tribromide | 107 mmol, 10.02 mL | P(Br)(Br)Br | Br3P
reactant | methanol | 20 mL | CO | CH4O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-4-(4-Bromomethylphenoxy)ethyloxazole | 33.3 g, Yield: 92% | C1(=CC=CC=C1)C=1OC=C(N1)CCOC1=CC=C(C=C1)CBr | C18H16BrNO2
